US06313122B1
A. N-(4-Methoxyphenyl)-2-hydroxybenzamide
To a solution of salicylic acid (1.38 g, 10.0 mmol) in methylene chloride (100 mL) cooled to 0° C. was added a few drops of dry N,N-dimethylformamide, followed by oxalyl chloride (1.41 mL). After 39 min, the ice bath was removed, and the reaction mixture allowed to warm to room temperature over 2 h. The solvent was removed in vacuo, and the residue dissolved in dry methylene chloride (125 mL). After cooling the solution to 0° C., triethylamine (2.81 mL, 20.0 mmol) was added, followed by the dropwise addition of a solution of p-anisoyl chloride (2.46 g, 20.0 mmol) in methylene chloride (25 mL). After 1 h, the reaction mixture was washed twice with 1 N aqueous hydrochloric acid and once with cold saturated aqueous sodium bicarbonate solution. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. Trituration with hexane, produced 1.95 g (80%) of the title compound as a crystalline solid.

reactant | salicylic acid | 10.0 mmol, 1.38 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | oxalyl chloride | 1.41 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 20.0 mmol, 2.81 mL | C(C)N(CC)CC | C6H15N
reactant | p-anisoyl chloride | 20.0 mmol, 2.46 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Methoxyphenyl)-2-hydroxybenzamide | 1.95 g, 80% | COC1=CC=C(C=C1)NC(C1=C(C=CC=C1)O)=O | C14H13NO3
